US09388173B2
To a solution of 5-bromo-N1-phenylbenzene-1,2-diamine (650 mg, 2.47 mmol) in HC(OMe)3 (15 mL) was added TsOH.H2O (38 mg, 0.2 mmol). The mixture was stirred at 100° C. for 4 h. Upon completion, the reaction solution was concentrated, the residue was extracted with EtOAc and washed with water. The organic layer was concentrated to give the crude 6-bromo-1-phenyl-1H-benzo[d]imidazole which was used in next step without further purification. LCMS (m/z): 273.1/274.1 [M+H]+/[M+2H]+

reactant | 5-bromo-N1-phenylbenzene-1,2-diamine | 2.47 mmol, 650 mg | BrC1=CC=C(C(=C1)NC1=CC=CC=C1)N | C12H11BrN2
reactant | TsOH.H2O | 0.2 mmol, 38 mg | CC=1C=CC(=CC1)S(=O)(=O)O.O
solvent | HC(OMe)3 | 15 mL | C(OC)(OC)OC | C4H10O3
product | 6-bromo-1-phenyl-1H-benzo[d]imidazole | BrC=1C=CC2=C(N(C=N2)C2=CC=CC=C2)C1 | C13H9BrN2
